US08530387B2
An amount of 1 g (4.254 mmol) of 2,3-dichloro-6,7,8,9-tetrahydropyridazino[1,2-a]pyridazine-1,4-dione (II-1) is introduced in 20 ml of absolute tetrahydrofuran. Subsequently 0.869 g (4.254 mmol) of disodium (Z)-1,2-dicyanoethene-1,2-bis(thiolate) and 2 ml of water are added and the mixture is stirred at 40° C. for 18 hours. It is filtered with suction and extracted with methylene chloride and water, and the extract is dried and concentrated. Chromatography on silica gel (cyclohexane/ethyl acetate 0-100%) gives 0.5 g (99% purity, 38.3% of theory) of 5,12-dioxo-5,7,8,9,10,12-hexahydro[1,4]dithiino[2,3-d]pyridazino[1,2-a]pyridazine-2,3-dicarbonitrile.

reactant | 2,3-dichloro-6,7,8,9-tetrahydropyridazino[1,2-a]pyridazine-1,4-dione | 4.254 mmol, 1 g | ClC1=C(C(N2N(CCCC2)C1=O)=O)Cl | C8H8Cl2N2O2
reactant | disodium (Z)-1,2-dicyanoethene-1,2-bis(thiolate) | 4.254 mmol, 0.869 g | C(#N)/C(=C(/[S-])\C#N)/[S-].[Na+].[Na+]
reactant | water | 2 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5,12-dioxo-5,7,8,9,10,12-hexahydro[1,4]dithiino[2,3-d]pyridazino[1,2-a]pyridazine-2,3-dicarbonitrile | 0.5 g | O=C1N2N(C(C3=C1SC(=C(S3)C#N)C#N)=O)CCCC2 | C12H8N4O2S2
